US07538123B2
(3) 2′-Allyloxy-4′-methoxyacetanilide
3 mg of 4-(dimethylamino)pyridine and 1 ml of acetic anhydride were successively added to 2 ml of pyridine containing 1.09 g of 2-allyloxy-4-methoxyaniline, and the reaction solution was then stirred at room temperature. After the disappearance of the raw material had been confirmed, 5 N HCl and ethyl acetate were added to the reaction solution, so as to separate an organic layer. The obtained organic layer was washed with a saturated sodium chloride solution and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. The residue was then solidified from t-butyl methyl ether-hexane, so as to obtain 1.04 g of the subject compound.

reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 2 ml, 1.09 g | N1=CC=CC=C1 | C5H5N
reactant | 2-allyloxy-4-methoxyaniline | C(C=C)OC1=C(N)C=CC(=C1)OC | C10H13NO2
reactant | HCl | 5 N | Cl | ClH
catalyst | 4-(dimethylamino)pyridine | 3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2′-Allyloxy-4′-methoxyacetanilide | 1.04 g | C(C=C)OC1=C(NC(C)=O)C=CC(=C1)OC | C12H15NO3
